US05854374
To 8.29 g (20 mmol) of (2-dimethylaminoethyl)triphenyl phosphonium bromide dissolved in 25 ml of water, 10 ml of sodium borohydride (0.757 g, 20 mmol) aqueous solution was added. The mixture was stirred at room temperature for 2 hours, and then extracted with 100 ml of dichloromethane twice. The combined dichloromethane extracts were concentrated to yield 6.42 g of (2-dimethylaminoethyl)triphenyl phosphonium borohydride as white powder (92% yield, Catalyst B).

reactant | (2-dimethylaminoethyl)triphenyl phosphonium bromide | 20 mmol, 8.29 g | [Br-].CN(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | sodium borohydride | 20 mmol, 10 ml, 0.757 g | [BH4-].[Na+]
solvent | water | 25 ml | O | H2O
product | (2-dimethylaminoethyl)triphenyl phosphonium borohydride | 6.42 g, 92% yield | [BH4-].CN(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C22H25NP.BH4/c1-23(2)18-19-24(20-12-6-3-7-13-20,21-14-8-4-9-15-21)22-16-10-5-11-17-22;/h3-17H,18-19H2,1-2H3;1H4/q+1;-1
